US07262185B2
2-[(4-nitrophenylsulfanyl) pyridine (8.0 g) was dissolved in acetic acid (64 ml), and reduced iron (24 g) was added to the mixture, and then, the mixture was stirred for 16 hours at room temperature. The mixture was filtered with Celite, washed with ethyl acetate, the solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 4-(2-pyridinylsulfanyl) aniline (6.3 g).

reactant | (4-nitrophenylsulfanyl) pyridine | 8.0 g | [N+](=O)([O-])C1=CC=C(C=C1)SC1=NC=CC=C1 | C11H8N2O2S
solvent | acetic acid | 64 ml | C(C)(=O)O | C2H4O2
product | 4-(2-pyridinylsulfanyl) aniline | 6.3 g | N1=C(C=CC=C1)SC1=CC=C(N)C=C1 | C11H10N2S
